US07138425B2
c) 2-[2-Methoxy-5-[5-(4-chlorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-4-methoxyphenyl)-5-(4-chlorophenyl)benzoxazole (104 mg, 0.30 mmol) and 1,2,4-benzenetricarboxylic anhydride (58 mg, 0.33 mmol) the title compound was obtained (67 mg, 43%). 1H NMR (DMSO) δ 8.45(dd, 1H), 8.38–8.33(m, 3H), 8.12(d, 1H), 8.05(d, 1H), 7.86(d, 1H), 7.77(d, 1H), 7.70(dd, 1H), 7.55–7.48(m, 3H), 3.89(s, 3H). MS m/z 525.1 (M+H)+.

reactant | 2-(3-amino-4-methoxyphenyl)-5-(4-chlorophenyl)benzoxazole | 0.30 mmol, 104 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)Cl | C20H15ClN2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.33 mmol, 58 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-[5-(4-chlorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)Cl)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H17ClN2O6
